### PR TITLE
1.2.6: Faces of polyhedral cones are polyhedral cones

### PR DESCRIPTION
**Pull request by datokrat**
In this PR, I proved that the face of a polyhedral cone -- that is, a nonempty exposed set, is also a polyhedral cone. The PR also provides a proof that only requires the set to be extreme and nonempty.

The proof is powered by the following characterization of an extreme subset A of B: If a point is contained in A and in the convex hull of some subset B' of B, then then it is even contained in the convex hull of A ∩ B'. This result, and some related ones, are also part of the PR.

### CODE REVIEW

**Comment by YaelDillies** [comment]
I suggest that @justus-springer reviews until they are happy with the PR, then I will have a final look and merge. Are people okay with this?

File: Toric/ConvexAnalysis/PolyhedralCone.lean [hunk 1]
```diff
@@ -19,11 +19,27 @@ namespace PointedCone
 section OrderedSemiring
 variable [Semiring R] [PartialOrder R] [IsOrderedRing R] [AddCommMonoid E] [Module R E] {s : Set E}
 
+theorem span_le (c : PointedCone R E) {s : Set E} :
```
Comment (justus-springer) [inline Toric/ConvexAnalysis/PolyhedralCone.lean:22]: Do we need this alias? I think there is no need to copy `Submodule.foo` lemmas into the `PointedCone` namespace.

File: Toric/ConvexAnalysis/PolyhedralCone.lean [hunk 2]
```diff
@@ -87,6 +103,40 @@ lemma IsPolyhedral.top [hE : FiniteDimensional 𝕜 E] : (⊤ : PointedCone 𝕜
...
+
+theorem IsPolyhedral.isPolyhedral_span_of_isExposed [TopologicalSpace 𝕜] [TopologicalSpace E]
+    {c : PointedCone 𝕜 E} (h : IsPolyhedral c) {s : Set E} (he : IsExposed 𝕜 c s) :
+    IsPolyhedral (span 𝕜 s) :=
+  h.isPolyhedral_span_of_isExtreme he.isExtreme
+
+theorem IsPolyhedral.isPolyhedral_of_isExposed [TopologicalSpace 𝕜] [TopologicalSpace E]
+    {c d : PointedCone 𝕜 E} (h : IsPolyhedral c) (he : IsExposed 𝕜 c (d : Set E)) :
+    IsPolyhedral d :=
+  h.isPolyhedral_of_isExtreme he.isExtreme
```
Comment (justus-springer) [inline Toric/ConvexAnalysis/PolyhedralCone.lean:138]: Might be a matter of taste, but I don't think these are needed as these trivially follow from the fact that exposed sets are extreme. Also, this and a another one down below are the only places in the PR that assumes `TopologicalSpace` instances, which personally I'd like to avoid (everything convex we do for the toric project shouldn't need a topology).

File: Toric/ConvexAnalysis/PolyhedralCone.lean [hunk 3]
```diff
@@ -19,11 +19,27 @@ namespace PointedCone
...
+  apply Iff.intro
+  · rintro ⟨g, hg⟩
+    refine ⟨g, ?_⟩
+    apply le_antisymm
+    · simp [hg]
+    · simp only [Set.union_singleton, Submodule.span_insert_zero, hg, le_refl]
+  · rintro ⟨g, hg⟩
+    refine ⟨open Classical in g ∪ {0}, ?_⟩
+    simp_all
+
```
Comment (justus-springer) [inline Toric/ConvexAnalysis/PolyhedralCone.lean:42]: I find it a bit strange that this is necessary. If it is, maybe it's better to inline this proof into `IsPolyhedral.isPolyhedral_span_of_isExtreme`?

File: Toric/Mathlib/Analysis/Convex/Cone/Pointed.lean [hunk 4]
```diff
@@ -132,4 +135,146 @@ lemma eq_zero_of_inner_eq_zero_of_mem_span_inner_neg (hs : ∀ x ∈ s, ⟪x, w
...
+      have := hc hx₂ hy₂ (a := 1 / 2) (b := 1 / 2) (by positivity) (by positivity) (by ring)
+      simpa [smul_smul] using this
+    · intro a y _ hys
+      exact smul_mem_of_isExtreme he y hys a.1 a.2
+  · exact Submodule.subset_span
+
+theorem span_eq_of_isExposed [TopologicalSpace 𝕜] [TopologicalSpace E] {c : PointedCone 𝕜 E}
+    {s : Set E} (hn : s.Nonempty) (he : IsExposed 𝕜 c s) :
+    span 𝕜 s = s :=
+  c.span_eq_of_isExtreme_of_convex hn he.isExtreme (he.convex c.toConvexCone.convex)
```
Comment (justus-springer) [inline Toric/Mathlib/Analysis/Convex/Cone/Pointed.lean:277]: See above.

**Review by justus-springer — COMMENTED** [review]
Very nice PR! Out of curiosity (and since I'm not too familiar with extreme/exposed sets), are you positive that "a nonempty exposed set of a cone" is the same the same as a face of that cone? My favorite definition of face is: A subset $$\tau \subseteq \sigma$$ such that there exists a $$u \in \sigma^\vee$$ with $$\tau = u^\perp \cap \sigma$$, where $$u^\perp$$ is the set of all $$x$$ with $$\langle x,u\rangle = 0$$ (sometimes called the annihilator). This definition notably doesn't mention topology, but it does need a notion of dual space with a bilinear pairing $$\langle \cdot, \cdot\rangle$$.

I'm perfectly happy with merging this PR for now (modulo small comments, maybe @YaelDillies has more to say about proof style). We can see how it relates to the faces in the sense above later.

File: Toric/ConvexAnalysis/PolyhedralCone.lean (hunk 3 above)
Comment (datokrat) [reply Toric/ConvexAnalysis/PolyhedralCone.lean]: Inlining the direction I needed worked.

File: Toric/ConvexAnalysis/PolyhedralCone.lean (hunk 2 above)
Comment (datokrat) [reply Toric/ConvexAnalysis/PolyhedralCone.lean]: Sounds fair, I removed them. :+1:

**Comment by datokrat** [comment]
> Very nice PR! Out of curiosity (and since I'm not too familiar with extreme/exposed sets), are you positive that "a nonempty exposed set of a cone" is the same the same as a face of that cone? My favorite definition of face is: A subset τ ⊆ σ such that there exists a u ∈ σ ∨ with τ = u ⊥ ∩ σ , where u ⊥ is the set of all x with ⟨ x , u ⟩ = 0 (sometimes called the annihilator).

Yes, this definition certainly also has its upsides. The main reason why I chose to formulate the results with exposed sets is that that's how "face" is defined in the blueprint.  (Irrelevant side note: In "my" slice of convex geometry, a face of A has yet another definition -- it's a convex subset F which fully contains all segments in A with an intrinsic interior that intersects F.)

**Comment by YaelDillies** [comment]
Am I right to say that the proofs in this PR will change quite drastically after #23. @justus-springer, do you have a preference on which PR should be merged first?

**Comment by YaelDillies** [comment]
Now that #23 is merged, could you please adapt to the new definition of polyhedral cones?

**Comment by datokrat** [comment]
While the proof that faces are polyhedral should be easier with the algebraic definition of "face" and "polyhedral cone", I don't see how I could reuse any of the code in this PR.

So I'd instead suggest that we just close this PR if we don't need the "non-algebraic" results about `Extreme` and `Exposed`. After that, somebody can claim this task again (either me or somebody else who has time for it). What do you think?

**Comment by YaelDillies** [comment]
Okay, no problem. I will simply note that most of your results do not talk about polyhedral cones, hence are still valid. We can fetch them from here as the need arises.
